US06136823
Synthesis of Ethyl 2-Chloro-4-fluoro-5-methylbenzoylacetate
Magnesium (110 mg), ethanol (2 ml) and carbon tetrachloride (0.2 ml) were stirred at room temperature to activate them. A solution of ethyl malonate (0.7 ml) in tetrahydrofuran (6 ml) was added dropwise to the activated mixture, followed by stirring at 80° C. for 4 hours. After the reaction mixture was allowed to cool, it was chilled to -40° C. Oxalyl chloride (0.4 ml) and N,N-dimethylformamide (1 drop) were added to a solution of 2-chloro-4-fluoro-5-methylbenzoic acid (800 mg) in methylene chloride (2 ml). The mixture was stirred at room temperature for 3.5 hours, and the solvent and the like were distilled off. Toluene was added to the residue to conduct azeotropic distillation. The resultant residue was dissolved in tetrahydrofuran (5 ml), and the solution was added dropwise at -40° C. to the reaction mixture obtained previously. After the addition, the temperature of the reaction mixture was given back to room temperature to conduct stirring overnight. The solvent was distilled off, and 12N hydrochloric acid (1 ml) was added to the resultant residue to keep its pH at about 2. The residue was then extracted with chloroform, and the solvent was distilled off. Water (10 ml) and p-toluenesulfonic acid monohydrate (50 mg) were added to the resultant residue, and the mixture was stirred for 4 hours while heating under reflux. After the reaction mixture was allowed to cool, it was extracted with chloroform. An organic layer was washed with water, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain the title compound (1.0 g) as a pale yellow oil.

reactant | Magnesium | 110 mg | [Mg] | Mg
reactant | ethyl malonate | 0.7 ml | C(CC(=O)[O-])(=O)OCC
reactant | Oxalyl chloride | 0.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-chloro-4-fluoro-5-methylbenzoic acid | 800 mg | ClC1=C(C(=O)O)C=C(C(=C1)F)C | C8H6ClFO2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 0.2 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | Ethyl 2-Chloro-4-fluoro-5-methylbenzoylacetate | 1.0 g | ClC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)F)C | C12H12ClFO3
